US07645886B2
Preparation of 2-(1-Benzyl-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-3-yl)-N,N-dimethyl-acetamide
A 500 mL flask is charged with N-benzyl isatin (55 g, 0.231 mol), malonic acid (28.95 g, 0.278 mol), and pyridine (73.4 g, 0.927 mol). To the formed red suspension, ethyl acetate (50 mL) is added, and the stirred mixture is heated to 80° C. After about 30 minutes a solution has formed which is kept stirring at 80° C. until no further formation of carbon dioxide is observed (about 2.5 h). Then triethyl amine (35.2 g, 0.347 mol) is added, and the mixture is stirred for another 10 minutes at 80° C. To the dark red solution, then dropwise (exothermicl) dimethyl carbamoyl chloride (32.4 g, 0.301 mol) is added during 10 minutes. When the evolution of carbon dioxide ceases, the mixture is kept stirring at 80° C. for another two hours, and then the solvent is removed from the brown suspension on the rotavapor. To the residue, HCl (4N, 0.2 L) is added, and the formed suspension is stirred for one hour at 80° C. After cooling and standing in the refrigerator over night, the crystals are filtered off, washed twice with water (about 150 mL each wash) and dried in vacuo to give light brown crystals. Yield of the title compound: 66.7 g (88.7% based on N-benzyl isatin). 1H-NMR (CDCl3, 300 MHz) δ 2,69, 3,03 (AB, 2H, 2J=16.1 Hz, CH2CONMe2); 2.91, 2.99 (2 s, 3 each, N(CH3)2); 4.87, 4.89 (AB, 2H, 2J=15.8 Hz, CH2Ph); 6.70 (d, 1H, J=7.7 Hz, H-7); 7.01 (dtr, J=7.7 Hz, J=1.1 Hz, H-5); 7.17 (dtr, 1H, J=7.7 Hz, J=1.1 Hz, H-6); 7.21-7.34 (m, 5H, Ph); 7.49 (dd, J=7.3 Hz, J=1.8 Hz, H-4). 13C-NMR (CDCl3, 75 MHz) δ 35.64, 37.66 N(CH3)2; 38.21 (CH2CONMe2); 44.02 (CH2Ph); 74.61 (C-3); 109.70 (C-7); 123.38 (C-5); 124.63 (C-4); 127.51, 127.90, 129.03 (Ph ortho-C, para-C, meta-C); 129.82 (C-6), 131.15 (C-9); 135.77 (Ph ipso-C); 142.47 (C-8); 171.18 (CONMe2); 176.51 (C-2).

reactant | N-benzyl isatin | 0.231 mol, 55 g | C(C1=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C15H11NO2
reactant | malonic acid | 0.278 mol, 28.95 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 0.927 mol, 73.4 g | N1=CC=CC=C1 | C5H5N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | triethyl amine | 0.347 mol, 35.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl carbamoyl chloride | 0.301 mol, 32.4 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1-Benzyl-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-3-yl)-N,N-dimethyl-acetamide | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(O)CC(=O)N(C)C)=O | C19H20N2O3
